US05730956
a) Bis(octadecyl)-aminoacetic acid
30 g (57.47 mmol) of bis-octadecylamine and 8.38 g (60.3 mmol) of bromoacetic acid are dissolved in a mixture of 150 ml of toluene/10 ml of dioxane and refluxed overnight. 200 ml of 5% aqueous ammonia solution is added and stirred for 10 minutes. The organic phase is separated, dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue is chromatographed on silica gel (mobile solvent: methylene chloride/ethanol=20:1).

reactant | bis-octadecylamine | 57.47 mmol, 30 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | bromoacetic acid | 60.3 mmol, 8.38 g | BrCC(=O)O | C2H3BrO2
reactant | ammonia | 200 ml | N | H3N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Bis(octadecyl)-aminoacetic acid | C(CCCCCCCCCCCCCCCCC)C(C(=O)O)(N)CCCCCCCCCCCCCCCCCC | C38H77NO2
